US05962458
A mixture of 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (448 mg, 1.4 mmol), (prepared as described for the starting material in Example 24), and potassium carbonate (676 mg, 4.9 mmol) in DMF (10 ml) was stirred at ambient temperature for 10 minutes. 4-Chloromethyl-2-methylthiazole hydrochloride (310 mg, 1.68 mmol) was added and the mixture was heated at 70° C. for 3.5 hours. The reaction mixture was allowed to cool and was partitioned between ethyl acetate and water. The organic layer was separated, washed with water, brine, dried (MgSO4) and the solvent removed by evaporation. The solid residue was purified by column chromatography eluting with a mixture of methylene chloride/acetonitrile/methanol (50/45/5 followed by 50/40/10). The resulting purified solid was dissolved in methylene chloride/methanol and a solution of 5M hydrogen chloride in isopropanol (1 ml) was added. Partial evaporation led to the precipitation of a white solid. This solid was collected by filtration and dried under vacuum to give 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-((2-methylthiazol-4-yl)methoxy)quinazoline hydrochloride (240 mg, 35%).

reactant | 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 1.4 mmol, 448 mg | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11ClFN3O2
reactant | potassium carbonate | 4.9 mmol, 676 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 4-Chloromethyl-2-methylthiazole hydrochloride | 1.68 mmol, 310 mg | Cl.ClCC=1N=C(SC1)C
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-((2-methylthiazol-4-yl)methoxy)quinazoline hydrochloride | 240 mg, 35% | Cl.ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCC=2N=C(SC2)C)C=C1)F | InChI=1S/C20H16ClFN4O2S.ClH/c1-11-25-13(9-29-11)8-28-19-7-17-14(6-18(19)27-2)20(24-10-23-17)26-16-4-3-12(21)5-15(16)22;/h3-7,9-10H,8H2,1-2H3,(H,23,24,26);1H
